US07326791B2
N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)ethyl]-4-(2-dimethylaminomethyl-indol-1-yl)-3-trifluoromethylbenzamide
Prepared analogously to Example 1g from 4-(2-dimethylaminomethyl-indol-1-yl)-3-trifluoromethylbenzoic acid, TBTU, diisopropylethylamine, and (1S)-1-(5-chloro-1H-benzimidazol-2-yl)ethylamine in dimethylsulfoxide. Yield: 37%; Rf value: 0.36 (silica gel: dichloromethane/methanol=10:1); C28H25ClF3N5O (539.987); mass spectrum: (M+H)+=540/542 (chlorine isotope).

reactant | 4-(2-dimethylaminomethyl-indol-1-yl)-3-trifluoromethylbenzoic acid | CN(C)CC=1N(C2=CC=CC=C2C1)C1=C(C=C(C(=O)O)C=C1)C(F)(F)F | C19H17F3N2O2
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (1S)-1-(5-chloro-1H-benzimidazol-2-yl)ethylamine | ClC1=CC2=C(NC(=N2)[C@H](C)N)C=C1 | C9H10ClN3
reactant | chlorine | ClCl | Cl2
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
solvent | dichloromethane methanol | ClCCl.CO
product | N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)ethyl]-4-(2-dimethylaminomethyl-indol-1-yl)-3-trifluoromethylbenzamide | Yield: 37% | ClC1=CC2=C(NC(=N2)[C@H](C)NC(C2=CC(=C(C=C2)N2C(=CC3=CC=CC=C23)CN(C)C)C(F)(F)F)=O)C=C1 | C28H25ClF3N5O
